US08030487B2
Synthesis of 2-Chloro-5-(2-Fluoro-5-Trifluoromethyl-Benzoylamino)-Benzoic Acid (Intermediate 18)
5-Amino-2-chloro-benzoic acid (0.4 g, 2.32 mmol) was diluted with THF (12 mL), treated with 2-fluoro-5-trifluoromethyl-benzoyl chloride (0.388 g, 2.56 mmol) and stirred for 16 h. Solvents were then removed and resulting solids were triturated with DCM. After filtration, the title compound was obtained as a white solid (0.5 g, 60%).

reactant | 5-Amino-2-chloro-benzoic acid | 2.32 mmol, 0.4 g | NC=1C=CC(=C(C(=O)O)C1)Cl | C7H6ClNO2
reactant | 2-fluoro-5-trifluoromethyl-benzoyl chloride | 2.56 mmol, 0.388 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-(2-Fluoro-5-Trifluoromethyl-Benzoylamino)-Benzoic Acid | ClC1=C(C(=O)O)C=C(C=C1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O | C15H8ClF4NO3
